US05212158
Following the same general procedure described previously for cinnamoyl-glycine-methyl ester, glycine-t-butyl ester. MCl (10.88 grams) was dissolved in dimethyl formamide (approximately 100 ml), cooled to 0° C. and treated with N-methylmorpholine (9.04 ml, 1 equivalent) followed immediately by a pre-cooled solution of benzoic acid (7.94 grams) in ethyl acetate (approximately 75 ml) which had been pre-activated by treatment with N-methylmorpholine (9.04 ml) followed by isobutyl chloroformate (8.4 ml) at -20° C. After work-up, benzoyl-glycine-t-butyl ester was obtained as a white solid which was used for the next step without further purification.

reactant | cinnamoyl-glycine-methyl ester | COC(CNC(C=CC1=CC=CC=C1)=O)=O | C12H13NO3
reactant | glycine-t-butyl ester | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | N-methylmorpholine | 9.04 ml, 1 equivalent | CN1CCOCC1 | C5H11NO
reactant | benzoic acid | 7.94 grams | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N-methylmorpholine | 9.04 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 8.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
solvent | dimethyl formamide | approximately 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | approximately 75 ml | C(C)(=O)OCC | C4H8O2
product | benzoyl-glycine-t-butyl ester | C(C)(C)(C)OC(CNC(C1=CC=CC=C1)=O)=O | C13H17NO3
